US05750471
Step A: 1-Chloro-N-(4-fluoro-3-nitrophenyl)methanesulfonamide
To a solution of 4-fluoro-3-nitroaniline (23.4 g, 0.15 mol) in anhydrous pyridine (120 mL) was added dropwise a solution of chloromethylsulfonyl chloride (22.35 g, 0.15 mol) at 0° C. under a nitrogen atmosphere. The mixture was then stirred at 0°-5° C. for 4 h and then the mixture was poured onto ice (1500 g) containing concentrated aqueous hydrochloric acid (300 mL). The mixture was filtered, and the residue was dissolved in methylene chloride (1200 mL). After drying (MgSO4) and concentration under reduced pressure, the crude product was dissolved in 1-chlorobutane:ether 9:1 v/v and passed through silica gel. The eluent was concentrated under reduced pressure to give the title compound of Step A.

reactant | 4-fluoro-3-nitroaniline | 0.15 mol, 23.4 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | chloromethylsulfonyl chloride | 0.15 mol, 22.35 g | ClCS(=O)(=O)Cl | CH2Cl2O2S
reactant | hydrochloric acid | 300 mL | Cl | ClH
solvent | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
product | 1-Chloro-N-(4-fluoro-3-nitrophenyl)methanesulfonamide | ClCS(=O)(=O)NC1=CC(=C(C=C1)F)[N+](=O)[O-] | C7H6ClFN2O4S
